US04399278
A mixture of 2-(2-formamidothiazol-4-yl)acetic acid (0.70 g), 2,6-lutidine (0.44 ml), triethylamine (0.05 ml) and pivaloyl chloride (457 mg) in dry methylene chloride (10 ml) was stirred at -15° C. for 20 minutes, at 12° C. for 20 minutes and at 22° C. for a further 40 minutes. A mixture of benzhydryl 7-amino-3-(4-methyl-1-piperazinyl)carbonyloxymethyl-3-cephem-4-carboxylate-1-oxide (1.7 g) in methylene chloride (20 ml) was cooled to -30° C. and thereto was added the acid anhydride solution obtained above followed by stirring at -20° to -10° C. for an hour and at -10° C. to ambient temperature for a further one hour. The reaction mixture was evaporated and to the residue was added ethyl acetate (20 ml) and water (10 ml) followed by stirring. Insoluble substances were collected by filtration, washed with water and ethyl acetate and then dried under reduced pressure to give benzhydryl 7-[2-(2-formamidothiazol-4-yl)acetamido]-3-(4-methyl-1-piperazinyl)carbonyloxymethyl-3-cephem-4-carboxylate-1-oxide (1.75 g).

reactant | 2-(2-formamidothiazol-4-yl)acetic acid | 0.70 g | C(=O)NC=1SC=C(N1)CC(=O)O | C6H6N2O3S
reactant | 2,6-lutidine | 0.44 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | pivaloyl chloride | 457 mg | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | benzhydryl 7-amino-3-(4-methyl-1-piperazinyl)carbonyloxymethyl-3-cephem-4-carboxylate-1-oxide | 1.7 g | NC1[C@@H]2N(C(=C(CS2=O)COC(=O)N2CCN(CC2)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C27H30N4O6S
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 0.05 ml | C(C)N(CC)CC | C6H15N
product | benzhydryl 7-[2-(2-formamidothiazol-4-yl)acetamido]-3-(4-methyl-1-piperazinyl)carbonyloxymethyl-3-cephem-4-carboxylate-1-oxide | 1.75 g | C(=O)NC=1SC=C(N1)CC(=O)NC1[C@@H]2N(C(=C(CS2=O)COC(=O)N2CCN(CC2)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C33H34N6O8S2
